US04159331
In the manner given in Example 13 but using dipropylsulfamoyl chloride in place of dimethylsulfamoyl chloride and [[4-[[7-chloro-4-quinolinyl]-amino]phenyl]sulfonyl]piperazine in place of [[4-[(7-trifluoromethyl-4-quinolinyl)amino]phenyl]-sulfonyl]piperazine, 1-[(dipropylamino)sulfonyl]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]-piperazine is obtained.

reactant | dipropylsulfamoyl chloride | C(CC)N(S(=O)(=O)Cl)CCC | C6H14ClNO2S
reactant | [[4-[[7-chloro-4-quinolinyl]-amino]phenyl]sulfonyl]piperazine | ClC1=CC=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)S(=O)(=O)N1CCNCC1 | C19H19ClN4O2S
product | 1-[(dipropylamino)sulfonyl]-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]-piperazine | C(CC)N(S(=O)(=O)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl)CCC | C25H32ClN5O4S2
